US08859566B2
The above compound N-(4-Cyano-phenyl)-2-{4-[6-oxo-1-propyl-7-(2-trimethylsilanyl-ethoxymethyl)-6,7-dihydro-1H-purin-8-yl]-phenoxy}-acetamide (0.110 g, 0.20 mmol) was taken in DCM (6 ml) and TFA (3 ml), stirred for 4 hrs at 27° C. The solvent was evaporated and the residue was washed with saturated NaHCO3 followed by water and n-pentane to obtain N-(4-cyano-phenyl)-2-[4-(6-oxo-1-propyl-6,7-dihydro-1H-purin-8-yl)-phenoxy]-acetamide (0.049 g, 58%).

reactant | N-(4-Cyano-phenyl)-2-{4-[6-oxo-1-propyl-7-(2-trimethylsilanyl-ethoxymethyl)-6,7-dihydro-1H-purin-8-yl]-phenoxy}-acetamide | 0.20 mmol, 0.110 g | C(#N)C1=CC=C(C=C1)NC(COC1=CC=C(C=C1)C1=NC=2N=CN(C(C2N1COCC[Si](C)(C)C)=O)CCC)=O | C29H34N6O4Si
solvent | DCM | 6 ml | C(Cl)Cl | CH2Cl2
solvent | TFA | 3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-(4-cyano-phenyl)-2-[4-(6-oxo-1-propyl-6,7-dihydro-1H-purin-8-yl)-phenoxy]-acetamide | 0.049 g, 58% | C(#N)C1=CC=C(C=C1)NC(COC1=CC=C(C=C1)C1=NC=2N=CN(C(C2N1)=O)CCC)=O | C23H20N6O3
